US06294558B1
4-(4-Bromophenyl)-3-(4-methylthiophenyl)-5-methylisoxazole. (step 3)
The title compound was prepared according to the procedure of step 2 in the Example 168 using 4-(4-bromophenyl)-3-(4-methylthiophenyl)-5-methyl-4,5-dihydro-5-isoxazolol, instead of 3-(4-bromophenyl)-4-(3-fluoro4-methylthiophenyl)-5-methyl-4,5-dihydro-5-isoxazolol.

reactant | 4-(4-bromophenyl)-3-(4-methylthiophenyl)-5-methyl-4,5-dihydro-5-isoxazolol | BrC1=CC=C(C=C1)C1C(=NOC1(O)C)C1=CC=C(C=C1)SC | C17H16BrNO2S
reactant | 3-(4-bromophenyl)-4-(3-fluoro4-methylthiophenyl)-5-methyl-4,5-dihydro-5-isoxazolol | BrC1=CC=C(C=C1)C1=NOC(C1C1=CC(=C(C=C1)SC)F)(O)C | C17H15BrFNO2S
product | 4-(4-Bromophenyl)-3-(4-methylthiophenyl)-5-methylisoxazole | BrC1=CC=C(C=C1)C=1C(=NOC1C)C1=CC=C(C=C1)SC | C17H14BrNOS
